US06228893B1
Benzenesulfinic acid sodium salt (10.25 g) was added to a solution containing 5 ml of cyclohexenone and 30 ml of water, followed by the dropwise addition of 60 ml of 1N hydrochloric acid. The reaction mixture was stirred at room temperature for 24 hours. The crystals so precipitated were filtered and then washed with water, isopropanol and cold ethyl ether. After recrystallization from isopropanol, 5.74 g of 3-(phenylsulfonyl)-cyclohexan-1-one were obtained in the form of white crystals. Yield: 97%

reactant | Benzenesulfinic acid sodium salt | 10.25 g | [Na+].C1(=CC=CC=C1)S(=O)[O-]
reactant | cyclohexenone | 5 ml | C1(C=CCCC1)=O | C6H8O
reactant | hydrochloric acid | 1N, 60 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 3-(phenylsulfonyl)-cyclohexan-1-one | 5.74 g, Yield: 97% | C1(=CC=CC=C1)S(=O)(=O)C1CC(CCC1)=O | C12H14O3S
